US06608203B2
1-Adamantan-1-yl-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol
The title compound was prepared by analogy to Example 48 except that 1-adamantan-1-yl-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline was used instead of 6-methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline, and neat CH2Cl2 to 10% MeOH/CH2Cl2 was used as eluent for flash chromatography purification.

reactant | 1-adamantan-1-yl-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | C12(CC3CC(CC(C1)C3)C2)C2N(CCC3=CC(=CC=C23)OC)C2=CC=CC=C2 | C26H31NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 1-Adamantan-1-yl-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol | C12(CC3CC(CC(C1)C3)C2)C2N(CCC3=CC(=CC=C23)O)C2=CC=CC=C2 | C25H29NO
